US07465795B2
4-Amino-8-bromo-N-methyl-cinnoline-3-carboxamide hydrochloric acid salt
A 250 mL round-bottomed flask was charged with 2-[(2-bromophenyl)-hydrazono]-N-methyl-2-cyanoacetamide (2.00 g, 7.12 mmol), aluminum chloride (3.46 g, 25.97 mmol), and anhydrous toluene (68 mL). The reaction was gently refluxed for 45 minutes, cooled to room temperature, and slowly treated with 2N HCl (68 mL). A precipitate formed. The mixture was heated to 90° C. for 10minutes, cooled to room temperature, and filtered. The solids were dried under high vacuum at 50° C. to afford the title compound (2.02 g, 90%). 1H NMR (300.132 MHz, DMSO) δ 9.08 (d, J=4.7 Hz, 1H), 8.56 (dd, J=8.4, 0.8 Hz, 1H), 8.28 (dd, J=7.6, 0.7 Hz, 1H), 7.65 (t, J=8.0 Hz, 1H), 2.89 (d, J=4.7 Hz, 3H). MS APCI, m/z=281/283 (M+H). HPLC 1.61 min.

reactant | 2-[(2-bromophenyl)-hydrazono]-N-methyl-2-cyanoacetamide | 7.12 mmol, 2.00 g | BrC1=C(C=CC=C1)NN=C(C(=O)NC)C#N | C10H9BrN4O
reactant | aluminum chloride | 25.97 mmol, 3.46 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 2N, 68 mL | Cl | ClH
solvent | toluene | 68 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Amino-8-bromo-N-methyl-cinnoline-3-carboxamide hydrochloric acid salt | 2.02 g, 90% | Cl.NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC | InChI=1S/C10H9BrN4O.ClH/c1-13-10(16)9-7(12)5-3-2-4-6(11)8(5)14-15-9;/h2-4H,1H3,(H2,12,14)(H,13,16);1H
